US08378135B2
Synthesis of 1-acetoxy-3-(8,11,14-pentadecatrienyl) benzene:
A mixture of acetic anhydride (0.1 mol, 15 ml) and p-toluenesulphonic acid (PTSA, 3.15 mol %, 0.6 g) were taken in a two necked RB flask and double distilled cardanol (0.1 mol, 30 g) was added dropwise with stirring over a period of 30 minutes at ambient conditions. The reaction was continued for 8-12 h. The product (AC) was washed free of acetic acid and catalyst with water and dried.

reactant | acetic anhydride | 0.1 mol, 15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | p-toluenesulphonic acid | 0.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | cardanol | 0.1 mol, 30 g | C=CC/C=C\C/C=C\CCCCCCCC1=CC=CC(=C1)O | C21H30O
product | 1-acetoxy-3-(8,11,14-pentadecatrienyl) benzene | C(C)(=O)OC1=CC(=CC=C1)CCCCCCCC=CCC=CCC=C | C23H32O2
